US08685969B2
2. 7-Bromo-4-(3-(6-methoxy-1-oxoisoindolin-2-yl)-2-methylphenyl)-9H-pyrido[3,4-b]indole-1-carboxamide
A mixture of 2-((3-(7-bromo-1-carbamoyl-9H-pyrido[3,4-b]indol-4-yl)-2-methylphenylamino)methyl)-5-methoxybenzoic acid (0.425 g, the crude product from the previous step), BOP (1.008 g, 2.279 mmol), and N-methylmorpholine (0.752 mL, 6.84 mmol) in DMF (Volume: 5 mL) was stirred at 50° C. for 1 hr. The mixture was diluted with ethyl acetate (100 mL), washed with water (2×25 mL) and brine (25 mL), and dried over anhydrous MgSO4. The desired product (0.198 g, 78% yield over 2 steps), was isolated as a yellow solid by ISCO (40 g silica gel, solid loading, 40-80% ethyl acetate/hexane).

reactant | 2-((3-(7-bromo-1-carbamoyl-9H-pyrido[3,4-b]indol-4-yl)-2-methylphenylamino)methyl)-5-methoxybenzoic acid | BrC1=CC=C2C3=C(NC2=C1)C(=NC=C3C=3C(=C(C=CC3)NCC3=C(C(=O)O)C=C(C=C3)OC)C)C(N)=O | C28H23BrN4O4
reactant | BOP | 2.279 mmol, 1.008 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | N-methylmorpholine | 6.84 mmol, 0.752 mL | CN1CCOCC1 | C5H11NO
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 7-Bromo-4-(3-(6-methoxy-1-oxoisoindolin-2-yl)-2-methylphenyl)-9H-pyrido[3,4-b]indole-1-carboxamide | 0.198 g, 78% yield | BrC1=CC=C2C3=C(NC2=C1)C(=NC=C3C3=C(C(=CC=C3)N3C(C1=CC(=CC=C1C3)OC)=O)C)C(=O)N | C28H21BrN4O3
